US07625902B2
(RS)-1-Benzenesulfonyl-3-cyclohexyl-4-[4-(3-trifluoromethyl-pyridin-2-yl)-piperazine-1-carbonyl]-imidazolidin-2-one
In analogy to example 1, (RS)-1-benzenesulfonyl-3-cyclohexyl-2-oxo-imidazolidine-4-carboxylic acid was coupled with 1-[3-(trifluoromethyl)pyrid-2-yl]piperazine to give the title compound as a colorless solid. MS: 565.8 ([M+H]+)

reactant | (RS)-1-benzenesulfonyl-3-cyclohexyl-2-oxo-imidazolidine-4-carboxylic acid | C1(=CC=CC=C1)S(=O)(=O)N1C(N(C(C1)C(=O)O)C1CCCCC1)=O | C16H20N2O5S
reactant | 1-[3-(trifluoromethyl)pyrid-2-yl]piperazine | FC(C=1C(=NC=CC1)N1CCNCC1)(F)F | C10H12F3N3
product | (RS)-1-Benzenesulfonyl-3-cyclohexyl-4-[4-(3-trifluoromethyl-pyridin-2-yl)-piperazine-1-carbonyl]-imidazolidin-2-one | C1(=CC=CC=C1)S(=O)(=O)N1C(N(C(C1)C(=O)N1CCN(CC1)C1=NC=CC=C1C(F)(F)F)C1CCCCC1)=O | C26H30F3N5O4S
